US05095113
In a 500 ml flask equipped with a mechanical stirrer, a reflux condenser, a thermometer and a gas inlet was placed 25 g of sodium dicyanamide and 250 ml of toluene. At 25°-35° C., 31 g of HCl gas was introduced. The white slurry was stirred for an additional 15 minutes at room temperature. Then, 21 g of N-methylacetamide and 43.5 g of phosphorus oxychloride were charged. After stirring for 5 minutes, the reaction mixture was heated to 85° C. for 1.5 hours and then to 110° C. for an hour. It was cooled to 25° C. and then poured into 500 ml of ice water. After extraction with an additional 250 ml of toluene, the combined toluene extracts were dried over MgSO4, filtered and evaporated to give 26 g of 2,4-dichloro-6-methyl-1,3,5-triazine (58% yield) as white needles.

reactant | sodium dicyanamide | 25 g | [N-](C#N)C#N.[Na+]
reactant | HCl | 31 g | Cl | ClH
reactant | N-methylacetamide | 21 g | CNC(C)=O | C3H7NO
reactant | phosphorus oxychloride | 43.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4-dichloro-6-methyl-1,3,5-triazine | 26 g, 58% yield | ClC1=NC(=NC(=N1)Cl)C | C4H3Cl2N3
